US06329381B1
6-Amino-9-benzyl-2-pentoxypurine
6-Amino-9-benzyl-2-chloropurine (150 mg, 0.58 mmol) and sodium pentylate (318 mg, 2.89 mmol) were dissolved in 1-pentanol (50 ml) and then the solution was stirred under heating at 130° C. for 5 hours. The reaction mixture was evaporated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and evaporated in vacuo to dryness. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (103 mg, yield 57%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.58 mmol, 150 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | sodium pentylate | 2.89 mmol, 318 mg | CCCCC[O-].[Na+]
solvent | 1-pentanol | 50 ml | C(CCCC)O | C5H12O
product | 6-Amino-9-benzyl-2-pentoxypurine | 103 mg, yield 57% | NC1=C2N=CN(C2=NC(=N1)OCCCCC)CC1=CC=CC=C1 | C17H21N5O
